US09353107B2
Step-ii: 5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy-N-methylbenzenesulfonamide
Using similar reaction conditions as described in step-iii of example-1, 5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy-N-methylbenzenesulfonamide (80 mg, 0.118 mmol) was hydrolyzed by lithium hydroxide (143 mg, 0.593 mmol), THF/Methanol/water (1/1/0.5 mL) to afford 22 mg (36.06% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.47-8.46 (d, 1H), 8.029-8.024 (d, 1H), 7.89-7.86 (m, 2H), 7.41 (s, 1H), 7.38-7.30 (m, 2H), 7.05-6.96 (m, 2H), 6.90-6.85 (m, 1H), 5.36 (s, 2H), 4.00 (s, 3H), 2.53 (s, 3H), 2.21 (s, 3H), 2.18 (s, 3H). MS: m/z=520.1 (M+1), HPLC Purity: 93.81% (Method B).

reactant | 5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy-N-methylbenzenesulfonamide | 0.118 mmol, 80 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)S(=O)(=O)NC)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C34H32FN5O5S2
reactant | lithium hydroxide | 0.593 mmol, 143 mg | [OH-].[Li+]
solvent | THF Methanol water | 0.5 mL | C1CCOC1.CO.O
product | 5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy-N-methylbenzenesulfonamide | 22 mg, 36.06% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)S(=O)(=O)NC)OC)C)C=CC1 | C27H26FN5O3S
